Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: OTOLARYNGOLOGY
 
Allergies: 
Latex
 
Attending: ___.
 
Chief Complaint:
dysphagia secondary to retropharyngeal cyst
 
Major Surgical or Invasive Procedure:
1. awake fiberoptic intubation
2. direct laryngoscopy and biopsy
3. surgical drainage of retropharyngeal cyst

 
History of Present Illness:
Pt is a ___ yo M with hx of HIV, cervical fusion and asthma
who states he has had a feeling of fullness in his throat over
the past 4 days. This began on ___ and he describes some
difficulty swallowing both solid and liquid foods at that time.
He notes he had a recent URI of nasal congestion and sore throat
last week but this has mostly resolved. His symptoms worsened
___ and into ___ prompting him to go to the ED yesterday
in ___. There he underwent a CT scan which showed a
large 3x4cm isodense lesion in his hypopharynx, obscuring his
post-cricoid region and situated directly over his posterior
glottis. For this reason he was transferred to the ___ for
further workup and care.
 
Past Medical History:
HTN, Hyperlipidemia, Back pain due to degenerative disc disease,
asthma, myocardial infarction ___, herpes esophagitis

Past Surgical History: Cardiac stents ___, cervical disc 
replacement/fusion
___, tonsillectomy

 
Social History:
___
Family History:
Father HTN

 
Physical ___:
On day of discharge:
AF VSS
NAD, breathing easily, normal voice
neck flat, no fullness, full range of motion
oropharynx clear without visible mass or erythema
tongue protrudes midline
 
Pertinent Results:
-___ 02:40AM   WBC-8.9 RBC-4.74 HGB-15.2 HCT-43.1 MCV-91 
MCH-32.1* MCHC-35.3* RDW-14.4
-___ 02:40AM   NEUTS-60.5 ___ MONOS-5.0 EOS-3.3 
BASOS-2.0
-GRAM STAIN Cyst Fluid 1+ PMNs, 1+ GPCs in pairs and clusters, 
1+ gram neg rods      
-MIXED BACTERIAL TYPES ON CULTURE
-NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
-NO FUNGUS ISOLATED. 

 
Brief Hospital Course:
After transport to ___ the Pt was seen by Thoracic surgery in 
the ED and was admitted to the SICU for further monitoring. ENT 
was consulted to evaluate his airway and upper aerodigestive 
tract. At the time of evaluation he complained of dysphagia but 
no difficulty breathing. He stated he had not had recent fevers 
and
had no neck pain. Endoscopic exam showed a 3x3cm posterior 
pharyngeal mass nearly occluding the airway, and the Pt was 
therefore taken to the operating room to safely secure his 
airway. He underwent awake fiberoptic intubation, direct 
laryngoscopy with biopsy, and drainage of the retropharyngeal 
cyst on ___. The cyst contained dark brown fluid consistent 
with hematoma. Please see the operative report for further 
details. The Pt was transferred to the PACU in stable condition 
and then returned to the SICU for further monitoring. He was 
subsequently extubated without difficulty, and reported that the 
dysphagia was gone. A follow-up CT of the neck showed resolution 
of the retropharngeal cyst. The Pt was eating and drinking 
normally and desired discharge. He had no complaints of 
dysphagia, respiratory distress, or any other concerns from a 
cardiac, pulmonary, GI, or GU standpoint. He was discharged home 
on augmentin 875mg bid x 10 days.   
  
Imaging:
CT Neck ___) - 24 x 31 x 18 mm subglottic cystic
mass, above the level of the cords, resulting in narrowing of 
the
airway. Possible etiologies include a mass, infection, or
postsurgical seroma/cyst (s/p anterior spinal fusion). No
neighboring lymphadenopathy seen. Direct visualization
recommended for further evaluation.

CT Neck ___ - The previously described cystic lesion in the 
hypopharynx has now 
resolved after incision and drainage; only a few locules of gas 
are seen 
within the evacuated pocket 

 
Medications on Admission:
Lopressor 50 mg bid, diltiazem 180 mg daily,
lisinopril 40 mg daily, Plavix 75 mg daily, aspirin 325 mg 
daily,
Crestor 40 mg daily, Tricor 48 mg daily, gabapentin 600 mg bid,
ATRIPLA daily, Flovent bid, Pro Air prn, multivitamin, Vicodin
prn

 
Discharge Medications:
1. Augmentin 875-125 mg Tablet Sig: One (1) Tablet PO twice a 
day for 10 days: Take with food.
Disp:*20 Tablet(s)* Refills:*0*
Lopressor 50 mg bid, diltiazem 180 mg daily,
lisinopril 40 mg daily, Plavix 75 mg daily, aspirin 325 mg 
daily,
Crestor 40 mg daily, Tricor 48 mg daily, gabapentin 600 mg bid,
ATRIPLA daily, Flovent bid, Pro Air prn, multivitamin, Vicodin
prn

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Retropharyngeal cyst
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General Discharge Instructions:
Please resume all regular home medications , unless specifically
advised not to take a particular medication.  Also, please take
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times
per day, and drink adequate amounts of fluids.  Avoid lifting
weights greater than ___ lbs until you follow-up with your
surgeon, who will instruct you further regarding activity
restrictions.
Avoid driving or operating heavy machinery while taking pain
medications.
Please follow-up with your surgeon and Primary Care Provider
(PCP) as advised.
Incision Care:
*Please call your doctor or nurse practitioner if you have
increased pain, swelling, redness, or drainage from the incision
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap
and warm water.  Gently pat the area dry.
*If you have staples, they will be removed at your follow-up
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.
 
Followup Instructions:
___